*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-3N3
* Inductance = 3.3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-3N3_freq port1 port2 PARAMS: Cpar=0.042pF Ind=3.3nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000098
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15289.6381
.ends 1008HT-3N3_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-6N8_freq port1 port2 PARAMS: Cpar=0.052pF Ind=6.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000196
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19223.918
.ends 1008HT-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-7N2
* Inductance = 7.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-7N2_freq port1 port2 PARAMS: Cpar=0.069pF Ind=7.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.05
+ C= {Cpar}
+ K1=0.00002
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13571.8096
.ends 1008HT-7N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-12N
* Inductance = 12.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-12N_freq port1 port2 PARAMS: Cpar=0.075pF Ind=12.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000284
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20184.4643
.ends 1008HT-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-15N_freq port1 port2 PARAMS: Cpar=0.111pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000354
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12057.867
.ends 1008HT-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-18N_freq port1 port2 PARAMS: Cpar=0.056pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.09
+ C= {Cpar}
+ K1=0.0000349
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33941.2338
.ends 1008HT-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-22N_freq port1 port2 PARAMS: Cpar=0.099pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.11
+ C= {Cpar}
+ K1=0.0000427
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16473.5592
.ends 1008HT-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-27N_freq port1 port2 PARAMS: Cpar=0.065pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.13
+ C= {Cpar}
+ K1=0.0000525
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24106.033
.ends 1008HT-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-33N_freq port1 port2 PARAMS: Cpar=0.11pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.14
+ C= {Cpar}
+ K1=0.0000511
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23764.1884
.ends 1008HT-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-39N_freq port1 port2 PARAMS: Cpar=0.089pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000619
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28801.6239
.ends 1008HT-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-47N_freq port1 port2 PARAMS: Cpar=0.128pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.18
+ C= {Cpar}
+ K1=0.0000759
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25436.5333
.ends 1008HT-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-56N_freq port1 port2 PARAMS: Cpar=0.096pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.18
+ C= {Cpar}
+ K1=0.0000889
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41252.9754
.ends 1008HT-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-68N_freq port1 port2 PARAMS: Cpar=0.094pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.23
+ C= {Cpar}
+ K1=0.000108
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=36507.6932
.ends 1008HT-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-82N_freq port1 port2 PARAMS: Cpar=0.094pF Ind=82nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.35
+ C= {Cpar}
+ K1=0.000138
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=54953.0145
.ends 1008HT-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R10
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R10_freq port1 port2 PARAMS: Cpar=0.084pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.64
+ C= {Cpar}
+ K1=0.00016
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=71430.1525
.ends 1008HT-R10_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R12
* Inductance = 120nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R12_freq port1 port2 PARAMS: Cpar=0.083pF Ind=120nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.55
+ C= {Cpar}
+ K1=0.000176
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=84909.0408
.ends 1008HT-R12_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R14
* Inductance = 140nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R14_freq port1 port2 PARAMS: Cpar=0.081pF Ind=140nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.7
+ C= {Cpar}
+ K1=0.000206
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=78699.2553
.ends 1008HT-R14_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R15
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R15_freq port1 port2 PARAMS: Cpar=0.098pF Ind=150nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.75
+ C= {Cpar}
+ K1=0.000218
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=69902.8315
.ends 1008HT-R15_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R18
* Inductance = 185nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R18_freq port1 port2 PARAMS: Cpar=0.075pF Ind=185nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=1.02
+ C= {Cpar}
+ K1=0.000263
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=83153.474
.ends 1008HT-R18_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R22
* Inductance = 225nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R22_freq port1 port2 PARAMS: Cpar=0.083pF Ind=225nH
X1 port1 port2 Model2A PARAMS:
+ R1=19
+ R2=1.15
+ C= {Cpar}
+ K1=0.000221
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=102143.071
.ends 1008HT-R22_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R24
* Inductance = 245nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R24_freq port1 port2 PARAMS: Cpar=0.078pF Ind=245nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=1.15
+ C= {Cpar}
+ K1=0.000263
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=92602.0999
.ends 1008HT-R24_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R27
* Inductance = 275nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R27_freq port1 port2 PARAMS: Cpar=0.077pF Ind=275nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=1.25
+ C= {Cpar}
+ K1=0.000311
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=126273.557
.ends 1008HT-R27_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R33
* Inductance = 340nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R33_freq port1 port2 PARAMS: Cpar=0.094pF Ind=340nH
X1 port1 port2 Model2A PARAMS:
+ R1=28
+ R2=1.35
+ C= {Cpar}
+ K1=0.000407
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=90114.6742
.ends 1008HT-R33_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R39
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R39_freq port1 port2 PARAMS: Cpar=0.108pF Ind=390nH
X1 port1 port2 Model2A PARAMS:
+ R1=30
+ R2=1.45
+ C= {Cpar}
+ K1=0.000498
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=82331.3441
.ends 1008HT-R39_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R47
* Inductance = 485nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R47_freq port1 port2 PARAMS: Cpar=0.091pF Ind=485nH
X1 port1 port2 Model2A PARAMS:
+ R1=38
+ R2=1.65
+ C= {Cpar}
+ K1=0.000615
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=97048.63
.ends 1008HT-R47_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HT-R56
* Inductance = 595nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HT-R56_freq port1 port2 PARAMS: Cpar=0.077pF Ind=595nH
X1 port1 port2 Model2A PARAMS:
+ R1=42
+ R2=1.9
+ C= {Cpar}
+ K1=0.000685
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=127366.475
.ends 1008HT-R56_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
